M1 cont2 gate0 cont1 cont0 myNMOS w=1u l=0.25u As=0.75p Ad=0.8125p Ps=3.5u Pd=3.5625u Nrs=0.325 Nrd=0.325 geo=1
M2 cont4 gate1 cont3 cont0 myNMOS w=1u l=0.25u As=0.8125p Ad=0.75p Ps=3.5625u Pd=3.5u Nrs=0.325 Nrd=0.325 geo=2
M3 cont2 gate2 cont5 cont0 myNMOS w=0.6u l=0.25u As=0.45p Ad=0.4875p Ps=2.7u Pd=2.1375u Nrs=0.5 Nrd=1.95833 geo=1
M4 cont3 gate3 cont6 cont0 myNMOS w=0.6u l=0.25u As=0.45p Ad=0.4875p Ps=2.7u Pd=2.1375u Nrs=0.5 Nrd=1.95833 geo=1
M5 cont9 gate4 cont8 cont7 myPMOS w=0.6u l=0.25u As=0.45p Ad=0.45p Ps=2.7u Pd=2.7u Nrs=0.5 Nrd=0.5 geo=0
M6 cont11 gate5 cont10 cont7 myPMOS w=0.6u l=0.25u As=0.45p Ad=0.45p Ps=2.7u Pd=2.7u Nrs=0.5 Nrd=0.5 geo=0
R1   aux1   cont3  0.18210312
R2   aux1   cont10 0.29004375
R3   aux1   aux2   0.84840561
R4   aux2   gate4  0.67611785
R5   aux2   gate0  0.27706403
R6   gate2  aux3   0.12487902
R7   gate3  aux3   0.19287315
R8   wlm    aux3   0.28866891
R9   gate5  gate1  0.97444895
R10  gate5  aux5   1.296669
R11  aux5   cont8  0.19564707
R12  aux5   cont2  0.28512009
R13  cont5  bit    0.81191922
R14  aux6   aux7   0.0025073175
R15  aux6   cont9  0.61664852
R16  aux6   cont11 0.75280143
R17  aux7   cont7  0.66253548
R18  aux7   vdd    0.054873075
R19  aux8   aux9   0.027646984
R20  aux8   cont1  0.28571272
R21  aux8   cont4  0.35728735
R22  aux9   gnd    0.035854003
R23  aux9   cont0  0.64543922
R24  bitbar cont6  0.7602371
C1   cont1  cont2  1.497555e-18
C2   cont1  gate0  1.2827792e-18
C3   cont1  cont3  1.2827792e-18
C4   cont1  gate1  1.497555e-18
C5   cont1  cont5  1.8515317e-17
C6   cont1  gate2  2.5751332e-18
C7   cont1  bit    1.8515317e-17
C8   cont1  wlm    2.5751332e-18
C9   cont1  cont6  1.8225479e-17
C10  cont1  gate3  2.5751332e-18
C11  cont1  bitbar 1.8225479e-17
C12  cont1  cont8  1.497555e-18
C13  cont1  cont9  2.5378641e-18
C14  cont1  gate4  1.2827792e-18
C15  cont1  cont7  2.5378641e-18
C16  cont1  vdd    2.5378641e-18
C17  cont1  cont10 1.2827792e-18
C18  cont1  cont11 2.5378641e-18
C19  cont1  gate5  2.99511e-18
C20  cont1  substrate 1.5288606e-16
C21  cont1  aux1   3.8483375e-18
C22  cont1  aux2   3.8483375e-18
C23  cont1  aux3   7.7253997e-18
C24  cont1  aux5   4.4926651e-18
C25  cont1  aux6   7.6135923e-18
C26  cont1  aux7   7.6135923e-18
C27  cont2  gate0  6.1253421e-18
C28  cont0  cont2  1.497555e-18
C29  gnd    cont2  1.497555e-18
C30  cont2  cont3  6.1253421e-18
C31  cont4  cont2  1.497555e-18
C32  cont2  cont5  1.6965624e-17
C33  cont2  gate2  1.2044126e-18
C34  cont2  bit    1.6965624e-17
C35  cont2  wlm    1.2044126e-18
C36  cont2  cont6  4.2725217e-18
C37  cont2  gate3  1.2044126e-18
C38  cont2  bitbar 4.2725217e-18
C39  cont2  cont9  1.9254071e-18
C40  cont2  gate4  6.1253421e-18
C41  cont2  cont7  1.9254071e-18
C42  cont2  vdd    1.9254071e-18
C43  cont2  cont10 6.1253421e-18
C44  cont2  cont11 1.9254071e-18
C45  cont2  substrate 5.420333e-16
C46  cont2  aux1   1.8376026e-17
C47  cont2  aux2   1.8376026e-17
C48  cont2  aux3   3.6132378e-18
C49  cont2  aux6   5.7762214e-18
C50  cont2  aux7   5.7762214e-18
C51  aux8   cont2  4.4926651e-18
C52  aux9   cont2  4.4926651e-18
C53  cont0  gate0  1.2827792e-18
C54  gnd    gate0  1.2827792e-18
C55  cont4  gate0  1.2827792e-18
C56  gate1  gate0  6.1253421e-18
C57  gate0  cont5  1.2425945e-18
C58  gate0  gate2  1.1481135e-18
C59  gate0  bit    1.2425945e-18
C60  gate0  wlm    1.1481135e-18
C61  gate0  cont6  1.0026108e-17
C62  gate0  gate3  1.1481135e-18
C63  gate0  bitbar 1.0026108e-17
C64  cont8  gate0  6.1253421e-18
C65  gate0  cont9  8.9398467e-19
C66  gate0  cont7  8.9398467e-19
C67  gate0  vdd    8.9398467e-19
C68  gate0  cont11 8.9398467e-19
C69  gate5  gate0  1.2250684e-17
C70  gate0  substrate 3.0282899e-16
C71  gate0  aux3   3.4443406e-18
C72  aux5   gate0  1.8376026e-17
C73  gate0  aux6   2.681954e-18
C74  gate0  aux7   2.681954e-18
C75  aux8   gate0  3.8483375e-18
C76  aux9   gate0  3.8483375e-18
C77  cont0  cont3  1.2827792e-18
C78  cont0  gate1  1.497555e-18
C79  cont0  cont5  1.8515317e-17
C80  cont0  gate2  2.5751332e-18
C81  cont0  bit    1.8515317e-17
C82  cont0  wlm    2.5751332e-18
C83  cont0  cont6  1.8225479e-17
C84  cont0  gate3  2.5751332e-18
C85  cont0  bitbar 1.8225479e-17
C86  cont0  cont8  1.497555e-18
C87  cont0  cont9  2.5378641e-18
C88  cont0  gate4  1.2827792e-18
C89  cont0  cont7  2.5378641e-18
C90  cont0  vdd    2.5378641e-18
C91  cont0  cont10 1.2827792e-18
C92  cont0  cont11 2.5378641e-18
C93  cont0  gate5  2.99511e-18
C94  cont0  substrate 1.5288606e-16
C95  cont0  aux1   3.8483375e-18
C96  cont0  aux2   3.8483375e-18
C97  cont0  aux3   7.7253997e-18
C98  cont0  aux5   4.4926651e-18
C99  cont0  aux6   7.6135923e-18
C100 cont0  aux7   7.6135923e-18
C101 gnd    cont3  1.2827792e-18
C102 gnd    gate1  1.497555e-18
C103 gnd    cont5  1.8515317e-17
C104 gnd    gate2  2.5751332e-18
C105 gnd    bit    1.8515317e-17
C106 gnd    wlm    2.5751332e-18
C107 gnd    cont6  1.8225479e-17
C108 gnd    gate3  2.5751332e-18
C109 gnd    bitbar 1.8225479e-17
C110 gnd    cont8  1.497555e-18
C111 gnd    cont9  2.5378641e-18
C112 gnd    gate4  1.2827792e-18
C113 gnd    cont7  2.5378641e-18
C114 gnd    vdd    2.5378641e-18
C115 gnd    cont10 1.2827792e-18
C116 gnd    cont11 2.5378641e-18
C117 gnd    gate5  2.99511e-18
C118 gnd    substrate 1.5288606e-16
C119 gnd    aux1   3.8483375e-18
C120 gnd    aux2   3.8483375e-18
C121 gnd    aux3   7.7253997e-18
C122 gnd    aux5   4.4926651e-18
C123 gnd    aux6   7.6135923e-18
C124 gnd    aux7   7.6135923e-18
C125 cont4  cont3  1.2827792e-18
C126 gate1  cont3  6.1253421e-18
C127 cont3  cont5  1.2425945e-18
C128 cont3  gate2  1.1481135e-18
C129 cont3  bit    1.2425945e-18
C130 cont3  wlm    1.1481135e-18
C131 cont3  cont6  1.0026108e-17
C132 cont3  gate3  1.1481135e-18
C133 cont3  bitbar 1.0026108e-17
C134 cont8  cont3  6.1253421e-18
C135 cont3  cont9  8.9398467e-19
C136 cont3  cont7  8.9398467e-19
C137 cont3  vdd    8.9398467e-19
C138 cont3  cont11 8.9398467e-19
C139 gate5  cont3  1.2250684e-17
C140 cont3  substrate 3.0282899e-16
C141 cont3  aux3   3.4443406e-18
C142 aux5   cont3  1.8376026e-17
C143 cont3  aux6   2.681954e-18
C144 cont3  aux7   2.681954e-18
C145 aux8   cont3  3.8483375e-18
C146 aux9   cont3  3.8483375e-18
C147 cont4  gate1  1.497555e-18
C148 cont4  cont5  1.8515317e-17
C149 cont4  gate2  2.5751332e-18
C150 cont4  bit    1.8515317e-17
C151 cont4  wlm    2.5751332e-18
C152 cont4  cont6  1.8225479e-17
C153 cont4  gate3  2.5751332e-18
C154 cont4  bitbar 1.8225479e-17
C155 cont4  cont8  1.497555e-18
C156 cont4  cont9  2.5378641e-18
C157 cont4  gate4  1.2827792e-18
C158 cont4  cont7  2.5378641e-18
C159 cont4  vdd    2.5378641e-18
C160 cont4  cont10 1.2827792e-18
C161 cont4  cont11 2.5378641e-18
C162 cont4  gate5  2.99511e-18
C163 cont4  substrate 1.5288606e-16
C164 cont4  aux1   3.8483375e-18
C165 cont4  aux2   3.8483375e-18
C166 cont4  aux3   7.7253997e-18
C167 cont4  aux5   4.4926651e-18
C168 cont4  aux6   7.6135923e-18
C169 cont4  aux7   7.6135923e-18
C170 gate1  cont5  1.6965624e-17
C171 gate1  gate2  1.2044126e-18
C172 gate1  bit    1.6965624e-17
C173 gate1  wlm    1.2044126e-18
C174 gate1  cont6  4.2725217e-18
C175 gate1  gate3  1.2044126e-18
C176 gate1  bitbar 4.2725217e-18
C177 gate1  cont9  1.9254071e-18
C178 gate1  gate4  6.1253421e-18
C179 gate1  cont7  1.9254071e-18
C180 gate1  vdd    1.9254071e-18
C181 gate1  cont10 6.1253421e-18
C182 gate1  cont11 1.9254071e-18
C183 gate1  substrate 5.420333e-16
C184 gate1  aux1   1.8376026e-17
C185 gate1  aux2   1.8376026e-17
C186 gate1  aux3   3.6132378e-18
C187 gate1  aux6   5.7762214e-18
C188 gate1  aux7   5.7762214e-18
C189 aux8   gate1  4.4926651e-18
C190 aux9   gate1  4.4926651e-18
C191 cont5  gate2  2.0585858e-17
C192 cont5  wlm    2.0585858e-17
C193 cont5  cont6  8.5820655e-17
C194 cont5  gate3  2.0585858e-17
C195 cont5  bitbar 8.5820655e-17
C196 cont8  cont5  1.6965624e-17
C197 cont5  cont9  1.8860596e-17
C198 gate4  cont5  1.2425945e-18
C199 cont5  cont7  1.8860596e-17
C200 cont5  vdd    1.8860596e-17
C201 cont10 cont5  1.2425945e-18
C202 cont5  cont11 1.8860596e-17
C203 gate5  cont5  3.3931248e-17
C204 cont5  substrate 1.9449972e-16
C205 aux1   cont5  3.7277834e-18
C206 aux2   cont5  3.7277834e-18
C207 cont5  aux3   6.1757575e-17
C208 aux5   cont5  5.0896871e-17
C209 cont5  aux6   5.6581788e-17
C210 cont5  aux7   5.6581788e-17
C211 aux8   cont5  5.5545951e-17
C212 aux9   cont5  5.5545951e-17
C213 bit    gate2  2.0585858e-17
C214 gate2  cont6  1.9491962e-17
C215 gate2  bitbar 1.9491962e-17
C216 cont8  gate2  1.2044126e-18
C217 gate4  gate2  1.1481135e-18
C218 cont10 gate2  1.1481135e-18
C219 gate5  gate2  2.4088252e-18
C220 gate2  substrate 7.2821957e-16
C221 aux1   gate2  3.4443406e-18
C222 aux2   gate2  3.4443406e-18
C223 aux5   gate2  3.6132378e-18
C224 aux8   gate2  7.7253997e-18
C225 aux9   gate2  7.7253997e-18
C226 bit    wlm    2.0585858e-17
C227 bit    cont6  8.5820655e-17
C228 bit    gate3  2.0585858e-17
C229 bit    bitbar 8.5820655e-17
C230 cont8  bit    1.6965624e-17
C231 bit    cont9  1.8860596e-17
C232 gate4  bit    1.2425945e-18
C233 bit    cont7  1.8860596e-17
C234 bit    vdd    1.8860596e-17
C235 cont10 bit    1.2425945e-18
C236 bit    cont11 1.8860596e-17
C237 gate5  bit    3.3931248e-17
C238 bit    substrate 1.9449972e-16
C239 aux1   bit    3.7277834e-18
C240 aux2   bit    3.7277834e-18
C241 bit    aux3   6.1757575e-17
C242 aux5   bit    5.0896871e-17
C243 bit    aux6   5.6581788e-17
C244 bit    aux7   5.6581788e-17
C245 aux8   bit    5.5545951e-17
C246 aux9   bit    5.5545951e-17
C247 wlm    cont6  1.9491962e-17
C248 wlm    bitbar 1.9491962e-17
C249 cont8  wlm    1.2044126e-18
C250 gate4  wlm    1.1481135e-18
C251 cont10 wlm    1.1481135e-18
C252 gate5  wlm    2.4088252e-18
C253 wlm    substrate 7.2821957e-16
C254 aux1   wlm    3.4443406e-18
C255 aux2   wlm    3.4443406e-18
C256 aux5   wlm    3.6132378e-18
C257 aux8   wlm    7.7253997e-18
C258 aux9   wlm    7.7253997e-18
C259 gate3  cont6  1.9491962e-17
C260 cont8  cont6  4.2725217e-18
C261 cont6  cont9  1.4651199e-17
C262 gate4  cont6  1.0026108e-17
C263 cont6  cont7  1.4651199e-17
C264 cont6  vdd    1.4651199e-17
C265 cont10 cont6  1.0026108e-17
C266 cont6  cont11 1.4651199e-17
C267 gate5  cont6  8.5450434e-18
C268 cont6  substrate 1.8095332e-16
C269 aux1   cont6  3.0078325e-17
C270 aux2   cont6  3.0078325e-17
C271 aux3   cont6  5.8475885e-17
C272 aux5   cont6  1.2817565e-17
C273 cont6  aux6   4.3953597e-17
C274 cont6  aux7   4.3953597e-17
C275 aux8   cont6  5.4676436e-17
C276 aux9   cont6  5.4676436e-17
C277 gate3  bitbar 1.9491962e-17
C278 cont8  gate3  1.2044126e-18
C279 gate4  gate3  1.1481135e-18
C280 cont10 gate3  1.1481135e-18
C281 gate5  gate3  2.4088252e-18
C282 gate3  substrate 7.2821957e-16
C283 aux1   gate3  3.4443406e-18
C284 aux2   gate3  3.4443406e-18
C285 aux5   gate3  3.6132378e-18
C286 aux8   gate3  7.7253997e-18
C287 aux9   gate3  7.7253997e-18
C288 cont8  bitbar 4.2725217e-18
C289 bitbar cont9  1.4651199e-17
C290 gate4  bitbar 1.0026108e-17
C291 bitbar cont7  1.4651199e-17
C292 bitbar vdd    1.4651199e-17
C293 cont10 bitbar 1.0026108e-17
C294 bitbar cont11 1.4651199e-17
C295 gate5  bitbar 8.5450434e-18
C296 bitbar substrate 1.8095332e-16
C297 aux1   bitbar 3.0078325e-17
C298 aux2   bitbar 3.0078325e-17
C299 aux3   bitbar 5.8475885e-17
C300 aux5   bitbar 1.2817565e-17
C301 bitbar aux6   4.3953597e-17
C302 bitbar aux7   4.3953597e-17
C303 aux8   bitbar 5.4676436e-17
C304 aux9   bitbar 5.4676436e-17
C305 cont8  cont9  1.9254071e-18
C306 cont8  gate4  6.1253421e-18
C307 cont8  cont7  1.9254071e-18
C308 cont8  vdd    1.9254071e-18
C309 cont8  cont10 6.1253421e-18
C310 cont8  cont11 1.9254071e-18
C311 cont8  substrate 5.420333e-16
C312 cont8  aux1   1.8376026e-17
C313 cont8  aux2   1.8376026e-17
C314 cont8  aux3   3.6132378e-18
C315 cont8  aux6   5.7762214e-18
C316 cont8  aux7   5.7762214e-18
C317 aux8   cont8  4.4926651e-18
C318 aux9   cont8  4.4926651e-18
C319 gate4  cont9  8.9398467e-19
C320 cont10 cont9  8.9398467e-19
C321 gate5  cont9  3.8508143e-18
C322 cont9  substrate 1.052064e-16
C323 aux1   cont9  2.681954e-18
C324 aux2   cont9  2.681954e-18
C325 aux5   cont9  5.7762214e-18
C326 aux8   cont9  7.6135923e-18
C327 aux9   cont9  7.6135923e-18
C328 gate4  cont7  8.9398467e-19
C329 gate4  vdd    8.9398467e-19
C330 gate4  cont11 8.9398467e-19
C331 gate5  gate4  1.2250684e-17
C332 gate4  substrate 3.0282899e-16
C333 gate4  aux3   3.4443406e-18
C334 aux5   gate4  1.8376026e-17
C335 gate4  aux6   2.681954e-18
C336 gate4  aux7   2.681954e-18
C337 aux8   gate4  3.8483375e-18
C338 aux9   gate4  3.8483375e-18
C339 cont10 cont7  8.9398467e-19
C340 gate5  cont7  3.8508143e-18
C341 cont7  substrate 1.052064e-16
C342 aux1   cont7  2.681954e-18
C343 aux2   cont7  2.681954e-18
C344 aux5   cont7  5.7762214e-18
C345 aux8   cont7  7.6135923e-18
C346 aux9   cont7  7.6135923e-18
C347 cont10 vdd    8.9398467e-19
C348 gate5  vdd    3.8508143e-18
C349 vdd    substrate 1.052064e-16
C350 aux1   vdd    2.681954e-18
C351 aux2   vdd    2.681954e-18
C352 aux5   vdd    5.7762214e-18
C353 aux8   vdd    7.6135923e-18
C354 aux9   vdd    7.6135923e-18
C355 cont10 cont11 8.9398467e-19
C356 gate5  cont10 1.2250684e-17
C357 cont10 substrate 3.0282899e-16
C358 cont10 aux3   3.4443406e-18
C359 aux5   cont10 1.8376026e-17
C360 cont10 aux6   2.681954e-18
C361 cont10 aux7   2.681954e-18
C362 aux8   cont10 3.8483375e-18
C363 aux9   cont10 3.8483375e-18
C364 gate5  cont11 3.8508143e-18
C365 cont11 substrate 1.052064e-16
C366 aux1   cont11 2.681954e-18
C367 aux2   cont11 2.681954e-18
C368 aux5   cont11 5.7762214e-18
C369 aux8   cont11 7.6135923e-18
C370 aux9   cont11 7.6135923e-18
C371 gate5  substrate 1.0840666e-15
C372 gate5  aux1   3.6752052e-17
C373 gate5  aux2   3.6752052e-17
C374 gate5  aux3   7.2264757e-18
C375 gate5  aux6   1.1552443e-17
C376 gate5  aux7   1.1552443e-17
C377 aux8   gate5  8.9853301e-18
C378 aux9   gate5  8.9853301e-18
C379 aux1   substrate 9.0848698e-16
C380 aux2   substrate 9.0848698e-16
C381 aux3   substrate 2.1846587e-15
C382 aux5   substrate 1.6260999e-15
C383 aux6   substrate 3.1561919e-16
C384 aux7   substrate 3.1561919e-16
C385 aux8   substrate 4.5865817e-16
C386 aux9   substrate 4.5865817e-16
C387 aux1   aux3   1.0333022e-17
C388 aux5   aux1   5.5128079e-17
C389 aux1   aux6   8.045862e-18
C390 aux1   aux7   8.045862e-18
C391 aux8   aux1   1.1545012e-17
C392 aux9   aux1   1.1545012e-17
C393 aux2   aux3   1.0333022e-17
C394 aux5   aux2   5.5128079e-17
C395 aux2   aux6   8.045862e-18
C396 aux2   aux7   8.045862e-18
C397 aux8   aux2   1.1545012e-17
C398 aux9   aux2   1.1545012e-17
C399 aux5   aux3   1.0839713e-17
C400 aux8   aux3   2.3176199e-17
C401 aux9   aux3   2.3176199e-17
C402 aux5   aux6   1.7328664e-17
C403 aux5   aux7   1.7328664e-17
C404 aux8   aux5   1.3477995e-17
C405 aux9   aux5   1.3477995e-17
C406 aux8   aux6   2.2840777e-17
C407 aux9   aux6   2.2840777e-17
C408 aux8   aux7   2.2840777e-17
C409 aux9   aux7   2.2840777e-17
