M1 cont1 gate0 cont0 cont1 myNMOS w=0.1u l=0.1u As=0.02p Ad=0.02p Ps=0.6u Pd=0.6u Nrs=1 Nrd=1 geo=0
M2 cont2 gate1 cont3 cont3 myPMOS w=0.2u l=0.1u As=0.04p Ad=0.04p Ps=0.8u Pd=0.8u Nrs=0.5 Nrd=0.5 geo=0
R1   cont0  Gnd    0.42074403
R2   cont2  Vdd    0.40373656
R3   cont3  aux1   0.29760163
R4   cont1  aux1   0.74251508
R5   aux1   Output 0.0082140736
R6   aux2   Input  0.19490075
R7   aux2   gate0  0.47152366
R8   aux2   gate1  0.46599205
C1   cont0  cont1  1.9382884e-17
C2   cont0  gate0  1.2948288e-17
C3   cont0  Output 1.9382884e-17
C4   cont0  cont3  1.9382884e-17
C5   cont0  cont2  1.0284016e-16
C6   cont0  gate1  1.2948288e-17
C7   cont0  Vdd    1.0284016e-16
C8   cont0  Input  1.2948288e-17
C9   cont0  aux1   5.8148652e-17
C10  cont0  aux2   3.8844865e-17
C11  cont1  gate0  3.6046661e-18
C12  Gnd    cont1  1.9382884e-17
C13  cont1  cont2  3.4643266e-17
C14  cont1  gate1  3.6046661e-18
C15  cont1  Vdd    3.4643266e-17
C16  cont1  Input  3.6046661e-18
C17  cont1  aux2   1.0813998e-17
C18  Gnd    gate0  1.2948288e-17
C19  Output gate0  3.6046661e-18
C20  cont3  gate0  3.6046661e-18
C21  gate0  cont2  1.3575993e-17
C22  gate0  Vdd    1.3575993e-17
C23  aux1   gate0  1.0813998e-17
C24  Gnd    Output 1.9382884e-17
C25  Gnd    cont3  1.9382884e-17
C26  Gnd    cont2  1.0284016e-16
C27  Gnd    gate1  1.2948288e-17
C28  Gnd    Vdd    1.0284016e-16
C29  Gnd    Input  1.2948288e-17
C30  Gnd    aux1   5.8148652e-17
C31  Gnd    aux2   3.8844865e-17
C32  Output cont2  3.4643266e-17
C33  Output gate1  3.6046661e-18
C34  Output Vdd    3.4643266e-17
C35  Output Input  3.6046661e-18
C36  Output aux2   1.0813998e-17
C37  cont3  cont2  3.4643266e-17
C38  cont3  gate1  3.6046661e-18
C39  cont3  Vdd    3.4643266e-17
C40  cont3  Input  3.6046661e-18
C41  cont3  aux2   1.0813998e-17
C42  gate1  cont2  1.3575993e-17
C43  Input  cont2  1.3575993e-17
C44  aux1   cont2  1.039298e-16
C45  aux2   cont2  4.072798e-17
C46  gate1  Vdd    1.3575993e-17
C47  aux1   gate1  1.0813998e-17
C48  Input  Vdd    1.3575993e-17
C49  aux1   Vdd    1.039298e-16
C50  aux2   Vdd    4.072798e-17
C51  aux1   Input  1.0813998e-17
C52  aux1   aux2   3.2441995e-17
